US06794519B2
1-Benzyl-4-piperidinol (23.98 g), 168.66 g of toluene and 83.56 g of a 30% aqueous solution of NaOH were respectively weighed and placed in a 500-mL four-necked flask. While the mixture was stirred, the flask inside temperature was lowered to 6.7° C. Then, 31.73 g of methanesulfonyl chloride was added dropwise over 4 hours and 30 minutes at a flask inside temperature of 5 to 10° C. Water (33 mL) was added to dissolve the NaCl which had precipitated out in the aqueous phase, and the mixture was separated into the toluene phase and aqueous phase. A toluene solution of 1-benzyl-4-piperidinol methanesulfonate was thus obtained in a yield of 40.3 mole percent.

reactant | 1-Benzyl-4-piperidinol | 23.98 g | C(C1=CC=CC=C1)N1CCC(CC1)O | C12H17NO
reactant | NaOH | [OH-].[Na+]
reactant | methanesulfonyl chloride | 31.73 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaCl | [Na+].[Cl-]
solvent | Water | 33 mL | O | H2O
solvent | toluene | 168.66 g | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-piperidinol methanesulfonate | CS(=O)(=O)OC1CCN(CC1)CC1=CC=CC=C1 | C13H19NO3S
